* source LMG1210
R_R5         0 N16779555  {Rdt}  
R_R6         0 N16779560  {Rdt}  
V_V2         N16779951 0  
+PULSE 0 5 0 0.5n 0.5n 0.25u 0.5u
V_V11         N16779960 0  
+PWL 0 0 50u 5 
V_V3         N16780078 0  
+PULSE 5 5 0 1n 1n 0.15u 0.5u
X_U5         HB HO PWM_LI HS HS HS HS 0 0 VDD LO N16779560 N16779555 VDD 0 0
+  VDD 0 0 0 BST LMG1210
X_U4         BST HB D_D1
C_C2         VDD 0  50u  
C_C5         0 N16787627  1u  
L_L1         HS VOUT  4.7u  
C_C3         0 VOUT  1.44u  
R_R1         0 VOUT  10  
X_U3         0 HS D_D1
C_C6         0 N16787627  0.022u  
X_U2         HS N16787627 D_D1
C_C7         0 N16787627  0.022u  
C_C1         HB HS  10u  
V_V10         N16787627 0 80
L_L2         N16788727 VOUT_IDEAL  4.7u  
C_C4         0 VOUT_IDEAL  1.44u  
R_R2         0 VOUT_IDEAL  10  
V_V4         N16788727 0  
+PULSE 0 80 10.520u 1n 1n 0.5u 1u
R_R7         0 N16780078  1T  
V_V1         PWM_LI 0  
+PULSE 0 6 0 1n 1n 80n 200n
R_R8         0 N16779951  1T  
X_S4    N16791706 N16791706 N16791706 N16791706 Test_TOP_PWM_S4 
X_S3    N16791706 N16791706 N16791706 N16791706 Test_TOP_PWM_S3 
R_R9         0 N16791706  1T  
R_R10         0 N16779960  1k  
V_V12         VDD 0 5
.PARAM  rdt=1.8m

.subckt Test_TOP_PWM_S4 1 2 3 4  
S_S4         3 4 1 2 _S4
RS_S4         1 2 1G
.MODEL         _S4 VSWITCH Roff=1e8 Ron=7m Voff=2.4 Von=2.6
.ends Test_TOP_PWM_S4

.subckt Test_TOP_PWM_S3 1 2 3 4  
S_S3         3 4 1 2 _S3
RS_S3         1 2 1G
.MODEL         _S3 VSWITCH Roff=1e8 Ron=7m Voff=2.4 Von=2.6
.ends Test_TOP_PWM_S3
