* source MOSTEST_CADENCE
* PSpice Text Block on SCHEMATIC1 PAGE1
.OPTIONS PTRANABSTOL=1E-5 PTRANVNTOL=1E-4
***
C_C1         0 VCC-200  1u  TC=0,0 
R_R1         0 N16736  470 TC=0,0 
V_V1         N20055 0  
+PULSE 0 6 0.5n 0n 0.5n 15n 40n
V_V2         VCC-200 0 20
V_V3         VCC-10 0 10
C_C2         HS HB  {C_f}  TC=0,0 
C_C3         0 VCC-5  {C_f*5}  TC=0,0 
R_R2         0 N22644  {Rdt} TC=0,0 
R_R3         0 N22362  {Rdt} TC=0,0 
X_U5         HB HO N20055 HS HS HS HS 0 0 VCC-10 LO N22362 N22644 VCC 0 0 VCC 0
+  0 0 BST LMG1210
L_L1         HS N16736  10000n  
X_U4         BST HB D_D1
C_C4         VCC-10 0  1u  TC=0,0 
V_V4         VCC-5 0 4
X_M1         VCC-200 HO HS POWER_NMOS_P PARAMS: BVDSS=500.0 IDSS=1U VGS_TH=2.2
+  RDSON=0.0059 GFS=7.1 CISS=149P COSS=46.4P CRSS=0.96P RG=1.8 VSD=0.45 QG=17.2N
+  V_QG=10 TRR=50N
X_M2         HS LO 0 POWER_NMOS_P PARAMS: BVDSS=500.0 IDSS=1U VGS_TH=2.2
+  RDSON=0.0059 GFS=7.1 CISS=149P COSS=46.4P CRSS=0.96P RG=1.8 VSD=0.45 QG=17.2N
+  V_QG=10 TRR=50N
.PARAM  dt=0.5m rdt={900/dt-25} c_f=1u
