* source SUMMTEST
V_V1         N52221 N44073  
+PULSE 0 60 0 3n 3n 6n 20n
V_V2         N44073 0  AC 1
+SIN 0 30 10k 0 0 0
V_V5         VCC 0 -30
V_V4         VCC_ARROW 0 30
R_R1         N52221 N52205  10k TC=0,0 
R_R2         0 N52212  7k TC=0,0 
C_C1         N52212 N52221  300p  TC=0,0 
C_C2         N52205 0  300p  TC=0,0 
X_U6         0 N71844 VCC_ARROW VCC N71812 AD8004AN/AD
R_R9         N52205 N71844  1000k TC=0,0 
R_R10         N71844 N71812  1000k TC=0,0 
R_R11         N52212 N71844  1000k TC=0,0 
